US06949542B2
8-(2-Fluoro-phenyl)-4-(3-pyridin-3-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {2′-fluoro-3-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert-butyl ester (Example M26) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (127 mg).

reactant | {2′-fluoro-3-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O)=O | C31H28FN3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-(2-Fluoro-phenyl)-4-(3-pyridin-3-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | FC1=C(C=CC=C1)C=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2C=NC=CC2)=O)C1 | C26H18FN3O
